US09193719B2
Ethyl tetrahydro-2H-pyran-4-carbimidate hydrochloride (1.646 g, 8.50 mmol) was suspended in DCM (21.25 mL) and cooled to 0° C. Pyridine (3.09 mL, 38.2 mmol) was added and the solution was stirred for 15 min. Ethyl chloroformate (1.384 g, 12.75 mmol) was added dropwise. The reaction mixture was allowed to warm to RT and stir overnight. The reaction mixture was diluted with 50% hexane/EtOAc and the resulting suspension was filtered through a plug of diatomaceous earth. The filtrate was concentrated under reduced pressure and the residue dried under high vacuum for several hours to yield ethyl N-ethoxycarbonyltetrahydro-2H-pyran-4-carbimidate (1.80 g, 92%). 1H NMR (400 MHz, DMSO-d6): δ 4.12 (m, 2H), 4.07 (m, 2H), 3.85-3.83 (m, 2H), 3.31-3.24 (m, 2H), 2.69-2.68 (m, 1H), 1.69-1.68 (m, 4H), 1.23 (m, 6H).

reactant | Ethyl tetrahydro-2H-pyran-4-carbimidate hydrochloride | 8.50 mmol, 1.646 g | Cl.O1CCC(CC1)C(OCC)=N
reactant | Pyridine | 38.2 mmol, 3.09 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 12.75 mmol, 1.384 g | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 21.25 mL | C(Cl)Cl | CH2Cl2
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | ethyl N-ethoxycarbonyltetrahydro-2H-pyran-4-carbimidate | 1.80 g, 92% | C(C)OC(=O)N=C(OCC)C1CCOCC1 | C11H19NO4
